US08193199B2
To a cooled solution of lithium diisopropylamide mono(tetrahydrofuran), 1.5 M sol. in cyclohexane (25.82 mL, 38.73 mmol) in 72 mL of THF at −75° C. was added a solution of 2-chloro-8-methoxyquinoline (5.0000 g, 25.82 mmol) in 26 mL of THF dropwise over 35 min (10:00 am˜10:35 am) with stirring and keeping the temperature below −65° C. After 40 min, to the cooled mixture was added DMF (2.999 mL, 38.73 mmol) dropwise and the mixture was stirred at −72° C. for 30 min. After 30 min, the reaction was quenched with NH4Cl (20 mL) and partitioned between EtOAc (150 mL) and water (100 mL). The combined organic layers were washed with water (100 mL×1), brine (100 mL×2), dried over Na2SO4, filtered, and concentrated under reduced pressure to give a yellow solid. The yellow solid was purified by flash column chromatography on a silica gel column using 20% of EtOAc in hexane as eluent to give 2-chloro-8-methoxyquinoline-3-carbaldehyde as a yellow solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 10.38 (1H, s), 8.92 (1H, s), 7.79 (1H, dd, J=8.4, 1.0 Hz), 7.67 (1H, t, J=8.0 Hz), 7.44 (1H, dd, J=7.8, 1.2 Hz), 4.00 (3H, s); LC-MS (ESI) m/z 222.1 [M+H]+.

reactant | lithium diisopropylamide mono(tetrahydrofuran) | O1CCCC1.C(C)(C)[N-]C(C)C.[Li+]
reactant | cyclohexane | 38.73 mmol, 25.82 mL | C1CCCCC1 | C6H12
reactant | 2-chloro-8-methoxyquinoline | 25.82 mmol, 5.0000 g | ClC1=NC2=C(C=CC=C2C=C1)OC | C10H8ClNO
reactant | DMF | 38.73 mmol, 2.999 mL | CN(C)C=O | C3H7NO
solvent | THF | 72 mL | C1CCOC1 | C4H8O
solvent | THF | 26 mL | C1CCOC1 | C4H8O
product | 2-chloro-8-methoxyquinoline-3-carbaldehyde | ClC1=NC2=C(C=CC=C2C=C1C=O)OC | C11H8ClNO2
